US08957069B2
5-bromo-4,6,7-trimethyl-1-benzofuran-3(2H)-one
N-bromosuccinimide (27.1 g, 152 mmol) was added to a solution of methylene chloride (200 mL) containing 4,6,7-trimethyl-1-benzofuran-3(2H)-one (20.7 g, 117 mmol) synthesized in Reference Example 44, and the mixture was stirred at room temperature for 24 hours. After that, the solvent was removed under reduced pressure, and water was added to the residue. The generated crystals were collected by filtration, and recrystallized from ethyl acetate to give 24.0 g of the title compound (yield: 80%).

reactant | N-bromosuccinimide | 152 mmol, 27.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4,6,7-trimethyl-1-benzofuran-3(2H)-one | 117 mmol, 20.7 g | CC1=CC(=C(C2=C1C(CO2)=O)C)C | C11H12O2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-4,6,7-trimethyl-1-benzofuran-3(2H)-one | 24.0 g, yield: 80% | BrC=1C(=C(C2=C(C(CO2)=O)C1C)C)C | C11H11BrO2
